US07786132B2
(ii) 1-(2-(5-Bromo-4-(thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one
5-Bromo-2-chloro-4-(thiophen-2-yl)pyrimidine (2.0 g, 7.25 mmol) dissolved in N-methyl pyrrolidone (25 mL) was treated with potassium carbonate (2 g, 14.5 mmol) and 1-(2-aminoethyl)imidazolidin-2-one (1.125 g, 8.71 mmol). The reaction was heated to 110° C. overnight. The reaction was poured into ice water and extracted with dichloromethane. The organic layer was washed with saturated aqueous sodium bicarbonate, water and brine and then dried with sodium sulfate. Purification was achieved by flash chromatography using a gradient of 0 to 10% methanol in dichloromethane to obtain a yellow solid. Yield=2 g. MS (M+H)+ 368/370.

reactant | 5-Bromo-2-chloro-4-(thiophen-2-yl)pyrimidine | 7.25 mmol, 2.0 g | BrC=1C(=NC(=NC1)Cl)C=1SC=CC1 | C8H4BrClN2S
reactant | potassium carbonate | 14.5 mmol, 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-aminoethyl)imidazolidin-2-one | 8.71 mmol, 1.125 g | NCCN1C(NCC1)=O | C5H11N3O
solvent | N-methyl pyrrolidone | 25 mL | CN1C(CCC1)=O | C5H9NO
product | 1-(2-(5-Bromo-4-(thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one | BrC=1C(=NC(=NC1)NCCN1C(NCC1)=O)C=1SC=CC1 | C13H14BrN5OS
